US04833143
A solution of 4-methylthiazole (4.95 g) in ether (5 ml) was added to ethylmagnesium bromide prepared under nitrogen from magnesium turnings (1.2 g) and ethyl bromide (5.5 g) in ether (40 ml). A yellow precipitate was formed which dissolved when the ether was replaced by tetrahydrofuran (70 ml). 1-(4-Chlorophenyl)cyclobutanecarbonitrile (6.0 g) was added and the solvent replaced by toluene and the mixture heated at 90° C. for two hours. Water and 2N sodium hydroxide solution were added and the reaction mixture extracted with ether. The extract was dried and the solvents removed by evaporation. The residue was dissolved in ether and hydrogen chloride gas was passed into the solution to give a pale yellow solid which is believed to be [1-(4-chlorophenyl)cyclobutyl](4-methylthiazol2-yl)methanimine hydrochloride. This salt was heated at 95° C. for two hours with a solution of sodium borohydride (2 g) in diethyleneglycoldimethylether (100 ml). Water and 2N sodium hydroxide solution were added and the reaction mixture extracted with ether. The extract was dried and the solvents removed by evaporation. The residue was dissolved in ether and hydrogen chloride gas was passed into the solution to give a yellow solid. This solid was converted into the free base which was purified by column chromatography on a florisil column eluted with a mixture of ether and cyclohexane to give [1-(4-chlorophenyl)cyclobutyl](4-methylthiazol-2-yl)methylamine which was converted into a hydrochloride salt [m.p. 230°-232° C. (dec)]containing 1.5 moles of hydrochloride by dissolving the free base in ether and passing hydrogen chloride gas through the solution.

reactant | 4-methylthiazole | 4.95 g | CC=1N=CSC1 | C4H5NS
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | magnesium | 1.2 g | [Mg] | Mg
reactant | ethyl bromide | 5.5 g | C(C)Br | C2H5Br
reactant | 1-(4-Chlorophenyl)cyclobutanecarbonitrile | 6.0 g | ClC1=CC=C(C=C1)C1(CCC1)C#N | C11H10ClN
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | [1-(4-chlorophenyl)cyclobutyl](4-methylthiazol2-yl)methanimine hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CCC1)C(=N)C=1SC=C(N1)C
reactant | sodium borohydride | 2 g | [BH4-].[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | Water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | [1-(4-chlorophenyl)cyclobutyl](4-methylthiazol-2-yl)methylamine | ClC1=CC=C(C=C1)C1(CCC1)NCC=1SC=C(N1)C | C15H17ClN2S
